US05446062
An oven dried flask, under nitrogen flow, was charged with a stir bar, 4-(N-acetyl-N-methyl-amino)benzoic acid (1.0 g, 5.18 mmol), prepared as in step7, anhydrous DME (10.3 mL), and anhydrous DMF (3.0 mL). The resulting solution was cooled to -20° C., and 4-methylmorpholine (0.60 mL, 5.4 mmol) and isobutyl chloroformate (0.70 mL, 5.4 mmol) were added sequentially via syringe. The reaction mixture was stirred under N2 at -20° C. for 1 hour. The resultant yellow mixture was filtered and the precipitate washed with DME (2×, ~1 mL). The combined filtrate and washings were cooled to 0° C. and sodium borohydride (800 mg, 21.1 mmol) dissolved in water (2.0 mL) was added dropwise. The reaction was stirred at 0° C. for 15 min. and quenched with saturated aqueous ammonium chloride. The resulting mixture was partitionedbetween ethyl acetate and brine. The combined organic layers were dried (MgSO 4), filtered and concentrated in vacuo to give an oil. Purification by flash chromatography on silica gel (90% ethyl acetate/hexane) provided 4-(N-acetyl-N-methyl-amino)benzyl alcohol as a colorless oil which solidified on standing. Recrystallization from hexane provided the alcohol as a colorless solid (543.0 mg, 58.5%). 1H NMR (300 MHz, CDCl3) d 7.45 (2H, d, J=8.5 Hz), 7.18 (2H, d, J=8.5 Hz), 4.75 (2H, s), 3.27 (3H, s), 1.90 (3H, br s). MS m/e 180 (M+H)+, 197 (M+NH4)+.

reactant | 4-(N-acetyl-N-methyl-amino)benzoic acid | 5.18 mmol, 1.0 g | C(C)(=O)N(C)C1=CC=C(C(=O)O)C=C1 | C10H11NO3
reactant | 4-methylmorpholine | 5.4 mmol, 0.60 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 5.4 mmol, 0.70 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | sodium borohydride | 21.1 mmol, 800 mg | [BH4-].[Na+]
solvent | water | 2.0 mL | O | H2O
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
solvent | DME | 10.3 mL | COCCOC | C4H10O2
product | 4-(N-acetyl-N-methyl-amino)benzyl alcohol | C(C)(=O)N(C)C1=CC=C(CO)C=C1 | C10H13NO2
